US09144239B2
Step 5: Preparation of (3S,7S,8S,9S)-3-amino-7,8-diisobutoxy-9-methyl-1,5-dioxonan-2-one (compound 160)
Benzyl (3S,7S,8S,9S)-9-methyl-7,8-bis(2-methylallyloxy)-2-oxo-1,5-dioxonan-3-ylcarbamate (265 mg, 0.592 mmol) was dissolved in EtOAc (8 mL) in a 50 mL high pressure reactor with a stir bar and Pd/C (5%, 30 mg) was added. The reactor was sealed and purged with H2 (4×), then charged to ˜600 pounds per square inch (psi) with H2. The reactor was warmed to 50° C. and stirred at 50° C. for 12 h. The reaction mixture was filtered through a pad of Celite® and the filtrate was concentrated to afford the title compound as a white solid (170 mg, 91%): mp 144-146° C.; 1H NMR (400 MHz, CDCl3) δ 4.82 (dq, J=8.5, 6.3 Hz, 1H), 3.97-3.84 (m, 1H), 3.78 (t, J=7.0 Hz, 1H), 3.72-3.53 (m, 3H), 3.44-3.29 (m, 2H), 3.29-3.12 (m, 4H), 1.82 (ttd, J=13.4, 6.5, 2.5 Hz, 2H), 1.42 (d, J=6.3 Hz, 3H), 0.99-0.78 (m, 12H); 13C NMR (101 MHz, CDCl3) δ 175.66, 84.70, 83.85, 80.55, 77.57, 74.90, 72.72, 72.70, 29.11, 28.87, 19.58, 19.48, 19.45, 19.38, 18.61; ESIMS m/z 318.8 ([M+H]+).

reactant | Benzyl (3S,7S,8S,9S)-9-methyl-7,8-bis(2-methylallyloxy)-2-oxo-1,5-dioxonan-3-ylcarbamate | 0.592 mmol, 265 mg | C[C@H]1[C@@H]([C@H](COC[C@@H](C(O1)=O)NC(OCC1=CC=CC=C1)=O)OCC(=C)C)OCC(=C)C | C24H33NO7
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | (3S,7S,8S,9S)-3-amino-7,8-diisobutoxy-9-methyl-1,5-dioxonan-2-one | 170 mg, 91% | N[C@@H]1C(O[C@H]([C@@H]([C@H](COC1)OCC(C)C)OCC(C)C)C)=O | C16H31NO5
